US07196111B2
To a solution of 191 mg (0.73 mmol) of 4′-chloro-2-methyl-biphenyl-4-carboxylic acid methyl ester in 4 mL of carbon tetrachloride (CCl4) was added 9.7 mg (0.04 mmol) of benzoyl peroxide, followed by 124 mg (0.696 mmol) of N-bromosuccinimide (NBS), and the reaction mixture was heated at reflux for 6 h. The mixture was cooled to rt, diluted with dichloromethane and washed with water and brine. The organic layer was dried over sodium sulfate and concentrated to give 132 mg (53%) of 2-bromomethyl-4′-chloro-biphenyl-4-carboxylic acid methyl ester, as an oil, which was used without any further purification in the next step. 1H NMR δ CDCl3 8.10 (s, 1H), 7.91–7.89 (d, J=8.0 Hz, 1H), 7.37–7.35 (d, J=8.3 Hz, 2H), 7.30–7.18 (d, J=8.7 Hz, 2H), 7.22–7.20 (d, J=8.0 Hz, 1H), 4.30 (s, 2H), 3.87 (s, 3H).

reactant | 4′-chloro-2-methyl-biphenyl-4-carboxylic acid methyl ester | 0.73 mmol, 191 mg | COC(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)Cl)C | C15H13ClO2
reactant | benzoyl peroxide | 0.04 mmol, 9.7 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 0.696 mmol, 124 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 4 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-bromomethyl-4′-chloro-biphenyl-4-carboxylic acid methyl ester | 132 mg, 53% | COC(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)Cl)CBr | C15H12BrClO2
